US07402704B2
(R) and (S)-2-[4-(2-Cyclopropylbenzenesulfonyl)phenyl]-1,1,1-trifluoro-propan-2-ol
Using the methods described above in Example 12, but substituting 2-Bromo-benzenethiol for 3-(4-mercaptophenyl)-2,2-dimethylpropionic acid ethyl ester in step a, 2-[4-(2-bromobenzenesulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol was prepared.

reactant | 3-(4-mercaptophenyl)-2,2-dimethylpropionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)S)(C)C)=O | C13H18O2S
reactant | 2-[4-(2-bromobenzenesulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol | BrC1=C(C=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C15H12BrF3O3S
product | (S)-2-[4-(2-Cyclopropylbenzenesulfonyl)phenyl]-1,1,1-trifluoro-propan-2-ol | C1(CC1)C1=C(C=CC=C1)S(=O)(=O)C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O | C18H17F3O3S
